US08119676B2
450 mg (1.36 mmol) of tert-butyl 3-(4-benzylpiperazin-1-yl)azetidine-1-carboxylate (XXIe) were dissolved in dichloromethane (8 ml) and, while stirring at room temperature, trifluoroacetic acid (8 ml) was added. The reaction solution was stirred for 2 h and then the solvent and excess trifluoroacetic acid were removed in vacuo. The residue was taken up again in toluene, concentrated in vacuo and then dried in vacuo. 286 mg (1.49 mmol) of EDCl were added to a solution of 642 mg (1.36 mmol) of 6-chloro-3-(4-methoxybenzenesulfonyl)-2-oxo-2,3-dihydrobenzimidazol-1-yl]phenylacetic acid (XIIIa), 276 mg (2.03 mmol) of HOBt, the residue obtained above, and 2.13 ml (12.2 mmol) of ethyldiisopropylamine in 50 ml of dichloromethane while cooling in ice.

reactant | tert-butyl 3-(4-benzylpiperazin-1-yl)azetidine-1-carboxylate | 1.36 mmol, 450 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C | C19H29N3O2
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | EDCl | 1.49 mmol, 286 mg | CCN=C=NCCCN(C)C.Cl
reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | HOBt | 2.03 mmol, 276 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyldiisopropylamine | 12.2 mmol, 2.13 ml | C(C)N(C(C)C)C(C)C | C8H19N
